US04719219
(+)-3-(3-Methoxyphenyl)piperidine hydrochloride (1.5 g, 0.0066 mol) was treated with 2 N NaOH (50 ml) and the free amine was extracted with ether. After drying (K2CO3), filtering and evaporation the residual free amine oil (1.2 g) was dissolved in dry ether (50 ml) and the triethylamine (1.4 ml, 0.0010 mol) was added. Then propionyl chloride (0.87 ml, 0.0010 mol) dissolved in dry ether (5 ml) was slowly added at 0° under stirring, and the mixture was stirred at room temperature for 30 min. The precipitate was filtered off and the solvent was evaporated giving an oily residue. This residue was dissolved in dry tetrahydrofuran (50 ml) and added to a suspension of LiAlH4 (0.75 g, 0.0020 mol) in dry tetrahydrofuran (75 ml) under N2. After refluxing for 4 h. the mixture was hydrolysed, the precipitate was filtered off and the solvent was evaporated. The residue was dissolved in ether and passed through an alumina column with ether as eluant. Addition of HCl saturated ethanol, evaporation of the solvent and recrystallization gave (-)-3-(methoxyphenyl)-N-n-propylpiperidine hydrochloride (1.48 g. 83%), 200,5°-202° C.; [α]22D -6.7 (C 2.1, CH3OH).

reactant | (+)-3-(3-Methoxyphenyl)piperidine hydrochloride | 0.0066 mol, 1.5 g | Cl.COC=1C=C(C=CC1)C1CNCCC1
reactant | NaOH | 2 N, 50 ml | [OH-].[Na+]
reactant | triethylamine | 0.0010 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.0010 mol, 0.87 ml | C(CC)(=O)Cl | C3H5ClO
reactant | LiAlH4 | 0.0020 mol, 0.75 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | (-)-3-(methoxyphenyl)-N-n-propylpiperidine hydrochloride | 1.48 g, 83% | Cl.COC1=C(C=CC=C1)C1CN(CCC1)CCC | InChI=1S/C15H23NO.ClH/c1-3-10-16-11-6-7-13(12-16)14-8-4-5-9-15(14)17-2;/h4-5,8-9,13H,3,6-7,10-12H2,1-2H3;1H
